* ---------------------------------------------------------------------------
* pedal_build - ALL-REAL buildable Angry Squealing Duck (Muff fuzz + hybrid)
*
* Pins:  in out vref vp vn   params: squeal anger quack volume
*
* No behavioral B-source shortcuts: every block is a real op-amp/OTA/diode circuit,
* so this maps 1:1 to KiCad. Hardcoded to the locked voicing = Muff fuzz + hybrid
* route (body -> BP envelope filter, octave -> fixed HP), envelope -> Iabc via a
* real V-to-I (control op-amp + the LM13700 bias resistors in vcf_build).
*
* Quack is a DUAL-GANG pot: one section sets the V-to-I gain (sweep depth, the
* {110k*quack} resistors), the other sets the filter damping/Q (inside vcf_build).
* Squeal / Anger / Volume are single pots. (Squeal should be an audio/log taper for
* the gentle->blast feel the behavioral quadratic modeled.)
* ---------------------------------------------------------------------------
.subckt pedal_build in out vref vp vn params: squeal=1 anger=0.8 quack=1 volume=0.7
* === input buffer + split node 'sig' ===
Xib in sig vref vp vn input_buffer
* === fuzz (Muff) ===
Xfz sig fz vref vp vn fuzz_muff anger={anger}
* === envelope follower (raw split) -> cv ===
Xenv sig cv vref vp vn envfollow
* === V-to-I: crossfade Quack-sweep (dual-gang sec 1) parked<->full-sweep ===
* Vpark (buffered) = parked cutoff; difference amp = full-sweep control voltage;
* the Quack-sweep pot crossfades between them, then a buffer drives vbias.
Rvo1 vcc nvoff 100k
Rvo2 nvoff 0   23k                ; Vpark ~1.68 V (above TL072 floor)
Xvof nvoff voff voff vp vn opamp  ; buffer Vpark (low-Z for the pot)
Rdi  vref ni   1.5k
Rdf  ni   ectl 110k               ; gain ~73 (envelope is tiny ~0.04V); matched w/ Rdk
Rdj  cv   pi   1.5k
Rdk  pi   voff 110k
Xdif pi   ni   ectl vp vn opamp   ; ectl = voff + 11*(cv-vref) = full-sweep control
Rqa  voff vbp  {100k*quack+1}     ; Quack-sweep pot: wiper = voff + quack*(ectl-voff)
Rqb  vbp  ectl {100k*(1-quack)+1}
Xvbb vbp  vbias vbias vp vn opamp ; buffer wiper -> vbias
* === BODY: fuzz -> band-pass filter (externally biased) ===
Xvb  fz   bodyf vbias vref vp vn vcf_build quack={quack}
* === OCTAVE: full octave -> x8 makeup -> Squeal pot -> fixed HP ===
Xog  fz   octv vref vp vn octave_gen squeal=1
Rmf  ocg  mfb 70k
Rmg  mfb  vref 10k
Xmk  octv mfb ocg vp vn opamp       ; non-inverting x8: ocg = vref + 8*(octv-vref)
Rsa  ocg  sw  {100k*(1-squeal)+1}   ; Squeal pot (level)
Rsb  sw   vref {100k*squeal+1}
Xhf  sw   octf vref vp vn hpf
* === summer: body + octave (inverting, unity each) ===
Rua  bodyf nsum 22k
Rub  octf  nsum 22k
Ruf  nsum  opre 22k
Xsm  vref  nsum opre vp vn opamp
* === volume pot -> output buffer ===
Rxa  opre vw  {100k*(1-volume)+1}
Rxb  vw   vref {100k*volume+1}
Xvol vw   out out vp vn opamp
.ends pedal_build
